US08957089B2
98.9 N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide
N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide (36 mg, 0.78 mmol) was dissolved in methanol (1 ml). Sodiumborohydride (12 mg, 0.31 mmol) was added and stirring was continued at room temperature over night. The solvent was evaporated in vacuo and the residue partitioned between dichloromethane and 1N aqueous sodium hydroxide solution. The layers were separated and the organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was used for the next step without further purification. Yield: 9 mg.

reactant | N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide | 0.78 mmol, 36 mg | ClC1=CC=CC(=N1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC | C23H28ClN3O3S
reactant | Sodiumborohydride | 0.31 mmol, 12 mg | [BH4-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide | ClC1=CC=CC(=N1)C1(CCC1)C1NCCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC | C23H30ClN3O3S
